US07947722B2
Reaction was carried out in a similar manner to Example 26, except that 2.5 g of N-Boc-glycine methyl ester was used in place of 1-dimethylethyl-(2R)-(2,6-dichlorophenyl)-5-oxo-3-((1′R)-phenylethyl)tetrahydro-1H-1-imidazolecarboxylate to obtain 640 mg of 2-(N-Boc-amino)-3,3-diphenylpropionic acid methyl ester as a colorless oily material (yield: 14%). Further, 354 mg of 2-(N-Boc-amino)-3,3-diphenylpropionic acid methyl ester was mixed with a 6 M solution of aqueous hydrochloric acid, and the mixture was refluxed for 5 hours. Thereafter, the mixture was washed with toluene, and neutralized with a 30% aqueous solution of sodium hydroxide to obtain a white solid of 2-amino-3,3-diphenylpropionic acid. The retention time of the respective isomers was confirmed by using the product.

reactant | 2-(N-Boc-amino)-3,3-diphenylpropionic acid methyl ester | 354 mg | COC(C(C(C1=CC=CC=C1)C1=CC=CC=C1)NC(=O)OC(C)(C)C)=O | C21H25NO4
reactant | hydrochloric acid | Cl | ClH
product | 2-amino-3,3-diphenylpropionic acid | NC(C(=O)O)C(C1=CC=CC=C1)C1=CC=CC=C1 | C15H15NO2
